US08497264B2
A 250 ml RBF was charged with 7′-bromo-4′-fluoro-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (2.73 g, 6.94 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.492 g, 0.694 mmol) and 2-fluoropyridin-3-ylboronic acid (1.467 g, 10.41 mmol). Dioxane (40 mL) and potassium carbonate (1M in water; 20.83 mL, 20.83 mmol) were added and the mixture was flushed with argon and heated at 85° C. for 30 minutes. The mixture was cooled to RT, diluted with EtOAc and the organic layer was separated and concentrated in vacuo to give a yellow residue. After triturating with 10 ml of ethanol the solid was filtered off, washed with EtOH (2×1 ml) and dried on air overnight to afford 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (2.11 g, 5.15 mmol).

reactant | 7′-bromo-4′-fluoro-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 6.94 mmol, 2.73 g | BrC1=CC=C2OC=3C(=CC(=CC3C3(C2=C1)COCC(=N3)N)OC)F | C17H14BrFN2O3
reactant | 2-fluoropyridin-3-ylboronic acid | 10.41 mmol, 1.467 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 20.83 mmol, 1M, 20.83 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.694 mmol, 0.492 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | Dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 5.15 mmol, 2.11 g | FC1=CC(=CC=2C3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)OC | C22H17F2N3O3
